US06051737
0.43 g (3.1 mmol) of 2-fluorobenzamide and 0.43 g (3.4 mmol, 1.1 eq) of oxalyl chloride were added to 10 ml of 1,2-dichloroethane and then the mixture was stirred for 8 hours at 100° C. The reaction solution was cooled down to room temperature. The reaction solvent and excessive oxalyl chloride were removed by distillation under reduced pressure to obtain 2-fluorobenzoyl isocyanate in an oily state. 10 ml of fresh 1,2-dichloroethane and 0.85 g (3.1 mmol) of 2-bromo-4-chloro-5-trifluoromethyl aniline were successively added thereto, reacted for 2 hours and filtered to obtain 0.82 g (Yield 60%) of the title compound as a solid.

reactant | 2-fluorobenzamide | 3.1 mmol, 0.43 g | FC1=C(C(=O)N)C=CC=C1 | C7H6FNO
reactant | oxalyl chloride | 3.4 mmol, 0.43 g, 1.1 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | 2-fluorobenzoyl isocyanate | FC1=C(C(=O)N=C=O)C=CC=C1 | C8H4FNO2
